US04153731
(B) Preparation of 4-phenoxy-N-(3,4-methylenedioxybenzyl)-aniline
The starting material used for catalytic hydrogenation, 4-phenoxy-(3,4-methylenedioxy-benzylidene)-aniline, is prepared as follows: the solution of 75 g of 3,4-methylenedioxy-benzaldehyde (piperonal) and 92.5 g of 4-aminodiphenyl ether in 500 ml of benzene is refluxed, with separation of water, for 8 hours. After the water has been completely separated, the reaction mixture is concentrated by evaporation; the crystals precipitated after cooling to about +5° C. are filtered off under suction; the crystal mass is recrystallised firstly in anhydrous benzene and subsequently in acetonitrile to thus obtain pure 4-phenoxy-(3,4-methylenedioxybenzylidene)-aniline, M.P. 89°-91° C.

reactant | 4-phenoxy-(3,4-methylenedioxy-benzylidene)-aniline | O(C1=CC=CC=C1)C1=CC=C(N=CC2=CC3=C(C=C2)OCO3)C=C1 | C20H15NO3
reactant | 3,4-methylenedioxy-benzaldehyde | 75 g | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | 4-aminodiphenyl ether | 92.5 g | C1=CC=C(C=C1)OC2=CC=C(C=C2)N | C12H11NO
reactant | water | O | H2O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 4-phenoxy-N-(3,4-methylenedioxybenzyl)-aniline | O(C1=CC=CC=C1)C1=CC=C(NCC2=CC3=C(C=C2)OCO3)C=C1 | C20H17NO3
